### PR TITLE
no dillydallying this time, here is 7.7.2

### PR DESCRIPTION
**Pull request by edegeltje**

### CODE REVIEW

File: Carleson/ForestOperator/Forests.lean [hunk 1]
```diff
@@ -352,26 +355,489 @@ lemma adjointCarlesonRowSum_adjoint
 
 /-- The constant used in `row_bound`.
 Has value `2 ^ (156 * a ^ 3 - n / 2)` in the blueprint. -/
--- Todo: define this recursively in terms of previous constants
-irreducible_def C7_7_2_1 (a n : ℕ) : ℝ≥0 := 2 ^ (156 * (a : ℝ) ^ 3 - n / 2)
+-- Todo: edit blueprint to update w/r/t new value of C7_3_1_1
+irreducible_def C7_7_2_1 (a n : ℕ) : ℝ≥0 := (C7_3_1_1 a : ℝ≥0) * 2 ^ (a ^ 3 - n/2:ℝ)
```
Comment (Parcly-Taxel) [inline Carleson/ForestOperator/Forests.lean:359]: My first comment is that to ease adapting downstream proofs these should just be set as follows:
```lean
/-- The constant used in `row_bound`. -/
irreducible_def C7_7_2_1 (a n : ℕ) : ℝ≥0 := 2 ^ (203 * (a : ℝ) ^ 3 - n / 2)

/-- The constant used in `indicator_row_bound`. -/
irreducible_def C7_7_2_2 (a n : ℕ) : ℝ≥0 := 2 ^ (304 * (a : ℝ) ^ 3 - n / 2)
```
Then, as in my PR #450, provide lemmas `le_C7_7_2_1, le_C7_7_2_2` showing that the implied best constants from the calculation are less than or equal to the actual values of these constants.

File: Carleson/ForestOperator/QuantativeEstimate.lean [hunk 2]
```diff
@@ -434,10 +434,12 @@ private lemma density_tree_bound_aux
       rw [← ENNReal.rpow_add_of_nonneg _ _ (by positivity) (by positivity)]
       congr; push_cast; ring
 
-/-- First part of Lemma 7.3.1. -/
-lemma density_tree_bound1
+/--
+`density_tree_bound1` with support assumptions rather than indicator assumptions.
+-/
```
Comment (Parcly-Taxel) [inline Carleson/ForestOperator/QuantativeEstimate.lean]: Instead of creating a separate lemma with the generalised assumptions, why not just generalise the lemma itself and update the blueprint accordingly?

File: Carleson/ForestOperator/Forests.lean [hunk 3]
```diff
@@ -352,26 +355,489 @@ lemma adjointCarlesonRowSum_adjoint
...
+-- move
+lemma _root_.ENNReal.le_of_pow_le_pow {a b : ℝ≥0∞} {n : ℕ} (hn : n ≠ 0) : a ^ n ≤ b ^ n → a ≤ b := by
+  contrapose!
+  exact (ENNReal.pow_right_strictMono hn ·)
+
+-- move to mathlib
+omit [TileStructure Q D κ S o] in
+lemma _root_.MeasureTheory.MemLp.sq_eLpNorm_eq (hg : MemLp g 2 volume) :
+    (eLpNorm g 2 volume) ^ 2 =
+      ‖∫ (x:X), conj (g x) * g x‖₊ := by
```
Comment (Parcly-Taxel) [inline Carleson/ForestOperator/Forests.lean]: This lemma duplicates `eLpNorm_two_eq_enorm_integral_mul_conj` which I added in #379.

File: Carleson/ForestOperator/Forests.lean [hunk 4]
```diff
@@ -352,26 +355,489 @@ lemma adjointCarlesonRowSum_adjoint
...
+
+lemma adjoint_density_tree_bound1
+    (hf : BoundedCompactSupport f) (hg : BoundedCompactSupport g)
+    (hg2 : g.support ⊆ G) (hu : u ∈ t) :
+    ‖∫ x, conj (adjointCarlesonSum (t u) g x) * f x‖₊ ≤
+    C7_3_1_1 a * dens₁ (t u) ^ (2 : ℝ)⁻¹ * eLpNorm f 2 volume * eLpNorm g 2 volume := by
+  simp_rw [← adjointCarlesonSum_adjoint hf hg]
+  exact density_tree_bound1' hf hg hg2 hu
+
+lemma adjoint_refined_density_tree_bound1 (hu : u ∈ t) (hf : BoundedCompactSupport f) (hf2 : f.support ⊆ G):
```
Comment (Parcly-Taxel) [inline Carleson/ForestOperator/Forests.lean]: As mentioned in #450's description this lemma is identical to Lemma 7.4.2. I'd like you to move `adjoint_density_tree_bound1`, `adjoint_refined_density_tree_bound1`, `adjoint_density_tree_bound2` and `adjoint_refined_density_tree_bound2` to `AlmostOrthogonality.lean`, around the part where Lemma 7.4.2 is proved.

File: Carleson/ForestOperator/Forests.lean [hunk 5]
```diff
@@ -352,26 +355,489 @@ lemma adjointCarlesonRowSum_adjoint
...
+  intro x hx
+  contrapose! hx
+  simp only [mem_support, ne_eq, Decidable.not_not]
+  specialize h2f x
+  simp only [indicator_of_notMem hx,norm_le_zero_iff] at h2f
+  exact h2f
+
+-- move, give better name
+omit [TileStructure Q D κ S o] in
+lemma sum_disjoint_indicator_eLpNorm_le_eLpNorm (hg : BoundedCompactSupport g) {ι : Type*}
```
Comment (Parcly-Taxel) [inline Carleson/ForestOperator/Forests.lean]: This is essentially `sum_sq_eLpNorm_indicator_le_of_pairwiseDisjoint` which I also added in #379.

File: Carleson/ForestOperator/Forests.lean [hunk 6]
```diff
@@ -352,26 +355,489 @@ lemma adjointCarlesonRowSum_adjoint
...
+  apply Finset.sum_congr rfl
+  intro u hu'
+  simp only [Finset.mem_filter, Finset.mem_univ, true_and] at hu'
+  ext x
+  rw [adjointCarlesonSum,Finset.sum_apply]
+  apply Finset.sum_congr (by ext; simp)
+  intro p hp
+  simp only [defaultA, defaultD.eq_1, defaultκ.eq_1, mem_𝔗, Finset.mem_filter, Finset.mem_univ,
+    true_and] at hp
+  rw [adjoint_tile_support2 (mem_forest_of_mem hu') hp]
```
Comment (Parcly-Taxel) [inline Carleson/ForestOperator/Forests.lean]: There is no need to unfold `adjointCarlesonSum` to apply Lemma 7.4.1 here. There is `adjoint_tile_support2_sum`.

File: Carleson/ForestOperator/Forests.lean [hunk 7]
```diff
@@ -352,26 +355,489 @@ lemma adjointCarlesonRowSum_adjoint
...
+
+open Classical in
+lemma part_2 (hg : BoundedCompactSupport g) {A : Set X} (hA : MeasurableSet A) (j : ℕ):
+    (eLpNorm (A.indicator <| ∑ u with u ∈ rowDecomp t j,
+      ∑ p with p ∈ t.𝔗 u, ((𝓘 u: Set X).indicator <|
+        adjointCarleson p ((𝓘 u:Set X).indicator g))) 2 volume) ^ 2
+    = ∑ u with u ∈ rowDecomp t j, .ofReal (∫ x in (𝓘 u : Set X),
+     ‖ (A.indicator (adjointCarlesonSum (t u) ((𝓘 u : Set X).indicator g)) x)‖ ^ 2) := by
```
Comment (Parcly-Taxel) [inline Carleson/ForestOperator/Forests.lean]: I wrote the lemma `sq_eLpNorm_le_sums` that can take most of the drudgery out of your `part_2` and `part_3`. The idea is to expand the `eLpNorm`, then show that all the cross terms (contained in `∑ i ∈ s, ∑ j ∈ s with i ≠ j, ‖∫ x, f i x * conj (f j x) ∂μ‖ₑ`) are zero because of the disjointness of the top cubes. Then you can remove one of the indicators with `eLpNorm_indicator_le` to get something on which you can apply the earlier lemmas.

File: Carleson/ForestOperator/QuantativeEstimate.lean (hunk 2 above)
Comment (edegeltje) [reply Carleson/ForestOperator/QuantativeEstimate.lean]: i did this for 7.3.1, 7.4.2, .7.4.3, 7.7.2 and 7.7.3. i think that's all, as the later lemmas seem to need it in order to show that the respective function has `BoundedCompactSupport`... however i'm not sure. Could you confirm my understanding?

Comment (Parcly-Taxel) [reply Carleson/ForestOperator/QuantativeEstimate.lean]: Yes, these are the five lemmas that can be generalised.

File: Carleson/ForestOperator/Forests.lean (hunk 1 above)
Comment (edegeltje) [reply Carleson/ForestOperator/Forests.lean:359]: i do think it's also important to do the `-- Todo: define this recursively in terms of previous constants`... do you think i should postpone/ignore this? maybe it's sufficient to add a lemma proving the concrete values, but encouraging not to use it or something?

Comment (Parcly-Taxel) [reply Carleson/ForestOperator/Forests.lean:359]: The way I wrote `le_C7_7_2_1, le_C7_7_2_2` in #450 makes it clear how the variables _ought_ to be defined in terms of previous constants (go have a look), but also indicates that the simpler, coarser constants are being used for ease of manipulation. I believe my approach suffices for the todo – it's not a pressing todo.

Comment (fpvandoorn) [reply Carleson/ForestOperator/Forests.lean:359]: We're only sometimes defining constants recursively in terms of others. If you do it recursively, we at some point would still like a proof of the form `C_X_Y_Z \le 2 ^ (something * a ^ 3)`, so either way is fine.

File: Carleson/ForestOperator/Forests.lean (hunk 4 above)
Comment (Parcly-Taxel) [reply Carleson/ForestOperator/Forests.lean]: On second thought, you can ignore this comment and leave the lemmas here for this PR…

File: Carleson/ForestOperator/Forests.lean (hunk 7 above)
Comment (edegeltje) [reply Carleson/ForestOperator/Forests.lean]: i'll take a look to see if i can use this; writing the proof again can be tedious though, so i'm not sure if it'll be worth it

Comment (edegeltje) [reply Carleson/ForestOperator/Forests.lean]: i figured it out 😄, it made my life a bunch easier!

**Comment by grunweg** [comment]
If I see right, this closes the last sorry towards classical Carleson. Thank you, Edward, for all your work to get here.

(And this goes without saying: this effort involved lots of work by many people; I'll be lazy and refer to Floris' list of names. This could not have happened without every one of you. While I only played a not-huge part in this, I am very happy to be part of this bigger endavour.)
